US09371314B2
To the mixture of methyl 6-amino-5-(5-amino-1-benzothien-2-yl)nicotinate (120 mg, 0.4 mmol, 1 eq) and 3-methylfuranylcarboxylic acid (50.4 mg, 1 eq) in 1,2-dichloroethane (3 mL) at 60° C. was added catalytic amount of DMAP (10 mg, 0.2 eq) and EDCI (92.2 mg, 1.2 eq). The reaction was stirred at that temperature for 2 h and then partitioned between EtOAc and saturated aq NaHCO3. The organic layer was further washed with brine and then dried with anhydrous sodium sulfate. The organic layer was decanted, concentrated, and the solid residue which was treated with ethyl acetate with stirring at room temperature for an hour. Methyl 6-amino-5-{5-[(3-methyl-2-furoyl)amino]-1-benzothien-2-yl}nicotinate was obtained upon filtration as a white solid in amount of 128 mg.

reactant | methyl 6-amino-5-(5-amino-1-benzothien-2-yl)nicotinate | 0.4 mmol, 120 mg, 1 eq | NC1=NC=C(C(=O)OC)C=C1C=1SC2=C(C1)C=C(C=C2)N | C15H13N3O2S
reactant | 3-methylfuranylcarboxylic acid | 50.4 mg, 1 eq | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | EDCI | 92.2 mg, 1.2 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 10 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 6-amino-5-{5-[(3-methyl-2-furoyl)amino]-1-benzothien-2-yl}nicotinate | NC1=NC=C(C(=O)OC)C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)C=2OC=CC2C | C21H17N3O4S
